US05484774
2-Chloro-N-{(R)-1-[5-methyl-(1,3,4-thiadiazol-2-yl) ]thio-2-propyl}adenosine
The title compound was prepared according to method A as described above in Example 1 by reacting 2-[(R)-2-amino-1-propylthio]-5-methyl-[ 1,3,4]-thiadiazole hydrochloride [prepared by alkylation of 2-mercapto-5-methyl-(1,3,4)-thiadiazole (1.32 g, 10 mmol) using methanesulphonic acid, 2-[(R)-N-tert-butyloxycarbonylamino]-1-propyl ester (3.04 g, 12 mmol) followed by acidic hydrolysis] (1.01 g, 4.47 mmol) with 9-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (2.36 g, 3.73 mmol), followed by debenzoylation of the purified product using methanolic ammonia. This provided the title 2-chloro-N{(R)-1-[5-methyl(1,3,4-thiadiazol-2-yl)]thio-2-propyl}adenosine (0.94 g, 53%) as a foam after column chromatography. 1H NMR (DMSO-d6) δ 1.35 (3H, d, --CHCH3), 2.67 (3H, s, --CH3), 3.53-3.61 (2H, m, H-5'a and H-5'b), 3.96 (1H, q, H-4), 4.14 (1H, q, H-3'), 4.52 (1H, q, H- 2'), 5.07 (1H, t, 5'-OH), 5.22, 5.50 (2H, 2d, 2'- and 3'-OH), 5.83 (1H, d, H-1'), 8.33-8.46 (2H, m, H-8 and --NH). HPLC retention time 9.9 min [gradient elution, 20-80% acetonitrile/water (containing 0.1% TFA)].

reactant | 2-[(R)-2-amino-1-propylthio]-5-methyl-[ 1,3,4]-thiadiazole hydrochloride | 10 mmol, 1.32 g | Cl.N[C@@H](CSC=1SC(=NN1)C)C
reactant | 9-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 3.73 mmol, 2.36 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | ammonia | N | H3N
product | 2-chloro-N{(R)-1-[5-methyl(1,3,4-thiadiazol-2-yl)]thio-2-propyl}adenosine | 0.94 g, 53% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N[C@@H](CSC=1SC(=NN1)C)C | C16H20ClN7O4S2
